US04229575
3-[(Acetyloxy)methyl]-7-[[(2,3-dihydro-5-benzofuranyl)-acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid
A solution of 10 mmole of 2,3-dihydo-5-benzofuranyl acetic acid and 10 mmole of triethylamine in 100 ml of THF is cooled to about 0° C. While stirring, isobutylchloroformate (10 mmole) is added and the temperature maintained at 0° C. for 15 minutes. A cold solution of 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (10 mmole) and 10 mmole of triethylamine in 80 ml of 50% aqueous THF is added to the previously prepared solution. The mixture is stirred at 5° C. for 1 hour and at room temperature for 1 hour. Then the THF is evaporated and the residue is dissolved in water and washed with ethyl acetate. The aqueous phase is covered with ethyl acetate and the pH is adjusted to 3 with 6N hydrochloric acid. The mixture is filtered and the layers separated. The ethyl acetate is dried over magnesium sulfate, filtered and evaporated to give the title compound.

reactant | 2,3-dihydo-5-benzofuranyl acetic acid | 10 mmole | O1CCC2=C1C=CC(=C2)CC(=O)O | C10H10O3
reactant | triethylamine | 10 mmole | C(C)N(CC)CC | C6H15N
reactant | isobutylchloroformate | 10 mmole | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 10 mmole | C(C)(=O)OCC1=C(N2C(C(C2SC1)N)=O)C(=O)O | C10H12N2O5S
reactant | triethylamine | 10 mmole | C(C)N(CC)CC | C6H15N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 3-[(Acetyloxy)methyl]-7-[[(2,3-dihydro-5-benzofuranyl)-acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(CC=1C=CC2=C(CCO2)C1)=O)=O)C(=O)O | C20H20N2O7S
